US08865726B2
To a solution of (S)—N—((S)-2-(tert-butyldimethylsilyloxy)-1-(5-fluoropyridin-2-yl)ethyl)-2-methylpropane-2-sulfinamide (16 g, 43 mmol) in methanol (300 mL) was added hydrogen chloride (53 mL, 210 mmol) (4M in dioxanes) and the reaction stirred at room temperature for 2 hours. The reaction was concentrated in vacuo and the material taken up in water (200 mL) and washed with dichloromethane (200 mL) to give (S)-2-amino-2-(5-fluoropyridin-2-yl)ethanol bis-hydrochloride (9.8 g, 43 mmol) as a solution in water. The solution was used crude in the next reaction.

reactant | (S)—N—((S)-2-(tert-butyldimethylsilyloxy)-1-(5-fluoropyridin-2-yl)ethyl)-2-methylpropane-2-sulfinamide | 43 mmol, 16 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=NC=C(C=C1)F)N[S@@](=O)C(C)(C)C | C17H31FN2O2SSi
reactant | hydrogen chloride | 210 mmol, 4M, 53 mL | Cl | ClH
solvent | methanol | 300 mL | CO | CH4O
solvent | water | O | H2O
product | (S)-2-amino-2-(5-fluoropyridin-2-yl)ethanol bis-hydrochloride | 43 mmol, 9.8 g | Cl.Cl.N[C@H](CO)C1=NC=C(C=C1)F | InChI=1S/C7H9FN2O.2ClH/c8-5-1-2-7(10-3-5)6(9)4-11;;/h1-3,6,11H,4,9H2;2*1H/t6-;;/m1../s1
